### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries/WeierstrassPreparation): Weierstrass division over complete local ring

### PR DESCRIPTION
**Pull request by acmepjz**
We define Weierstrass division, which is a preliminary work towards to Weierstrass preparation theorem (#24584).

We assume that a ring is adic complete with respect to some ideal.
If such ideal is a maximal ideal, then by `isLocalRing_of_isAdicComplete_maximal`,
such ring has only on maximal ideal, and hence such ring is a complete local ring.

## Main definitions

- `PowerSeries.IsWeierstrassDivisionAt f g q r I`: a `Prop` which asserts that a power series
  `q` and a polynomial `r` of degree `< n` satisfy `f = g * q + r`, where `n` is the order of the
  image of `g` in `(A / I)⟦X⟧` (defined to be zero if such image is zero, in which case
  it's mathematically not considered).

- `PowerSeries.IsWeierstrassDivision`: version of `PowerSeries.IsWeierstrassDivisionAt`
  for local rings with respect to its maximal ideal.

## Main results

- `PowerSeries.exists_isWeierstrassDivision`: **Weierstrass division**: let `f`, `g` be power
  series over a complete local ring, such that the image of `g` in the residue field is not zero.
  Let `n` be the order of the image of `g` in the residue field. Then there exists a power series
  `q` and a polynomial `r` of degree `< n`, such that `f = g * q + r`.

- `PowerSeries.IsWeierstrassDivision.elim`: The `q` and `r` in the Weierstrass division is unique.

Co-authored-by: Nailin Guan <150537269+Thmoas-Guan@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Part of Iwasawa project https://github.com/acmepjz/lean-iwasawa/blob/master/Iwasawalib/RingTheory/PowerSeries/WeierstrassPreparation.lean

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 1]
```diff
@@ -0,0 +1,438 @@
...
+    (H : f.IsWeierstrassDivision g q r) (H2 : f.IsWeierstrassDivision g q' r') : q = q' ∧ r = r' :=
+  g.eq_of_weierstrass_division hg H.1 H2.1 (H.2.symm.trans H2.2)
+
+/-- The `q` and `r` in the Weierstrass division for `0` is equal to `0`. -/
+theorem IsWeierstrassDivision.eq_zero [IsLocalRing A] [IsHausdorff (IsLocalRing.maximalIdeal A) A]
+    {g : A⟦X⟧} (hg : g.map (IsLocalRing.residue A) ≠ 0) {q : A⟦X⟧} {r : A[X]}
+    (H : IsWeierstrassDivision 0 g q r) : q = 0 ∧ r = 0 :=
+  H.elim hg (g.isWeierstrassDivisionAt_zero _)
+
+/-- The `q` and `r` in the Weierstrass division is equal to `f /ʷ g` and `f %ʷ g`. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:417]:
```suggestion
/-- `q` and `r` in the Weierstrass division are equal to `f /ʷ g` and `f %ʷ g`. -/
```
Actually I would only keep this statement, there is not point in having uniqueness stated using `q` and `q'`, just say that any `q` is equal to `f /ʷ g`.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 2]
```diff
@@ -0,0 +1,438 @@
...
+  exact ((IsWeierstrassDivisor.of_map_ne_zero hg).isWeierstrassDivisionAt_div_mod f).2
+
+/-- The `q` and `r` in the Weierstrass division for `0` is equal to `0`. -/
+theorem eq_zero_of_weierstrass_division [IsLocalRing A] [IsHausdorff (IsLocalRing.maximalIdeal A) A]
+    {g : A⟦X⟧} (hg : g.map (IsLocalRing.residue A) ≠ 0) {q : A⟦X⟧} {r : A[X]}
+    (hr : r.degree < (g.map (IsLocalRing.residue A)).order.toNat)
+    (heq : g * q = r) : q = 0 ∧ r = 0 :=
+  (IsWeierstrassDivisor.of_map_ne_zero hg).eq_zero_of_mul_eq hr heq
+
+/-- The `q` and `r` in the Weierstrass division is unique. -/
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:397]: But see the comment below about `IsWeierstrassDivision.eq_weierstrassDiv_weierstrassMod`.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 3]
```diff
@@ -0,0 +1,438 @@
...
+  simpa [SModEq.sub_mem] using ((H.divCoeff f i).2 k).symm
+
+variable (f)
+
+/-- The remainder `r` in the proof of Weierstrass division. -/
+noncomputable def mod [IsPrecomplete I A] : A[X] :=
+  (f - g * H.div f).trunc (g.map (Ideal.Quotient.mk I)).order.toNat
+
+/-- If the ring is `I`-adic complete, then `g` can be used as a divisor in Weierstrass division. -/
+theorem isWeierstrassDivisionAt_div_mod [IsAdicComplete I A] :
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:243]: That's indeed correct. It is PowerSeries.IsWeierstrassDivis(or)At.isWeierstrassDivis(ion)At_div_mod. It only take one explicit argument which is of type `PowerSeries.IsWeierstrassDivisorAt`. This is designed for dot notation. If `H : PowerSeries.IsWeierstrassDivisorAt ...` then `H.isWeierstrassDivisionAt_div_mod` is the proof of `f.IsWeierstrassDivisionAt g (H.div f) (H.mod f) I`.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 4]
```diff
@@ -0,0 +1,438 @@
...
+  simp_rw [weierstrassDiv, weierstrassMod, dif_pos hg]
+  exact (IsWeierstrassDivisor.of_map_ne_zero hg).isWeierstrassDivisionAt_div_mod f
+
+theorem eq_mul_weierstrassDiv_add_weierstrassMod
+    [IsLocalRing A] [IsAdicComplete (IsLocalRing.maximalIdeal A) A] (f : A⟦X⟧) {g : A⟦X⟧}
+    (hg : g.map (IsLocalRing.residue A) ≠ 0) : f = g * (f /ʷ g) + (f %ʷ g) := by
+  simp_rw [weierstrassDiv, weierstrassMod, dif_pos hg]
+  exact ((IsWeierstrassDivisor.of_map_ne_zero hg).isWeierstrassDivisionAt_div_mod f).2
+
+/-- The `q` and `r` in the Weierstrass division for `0` is equal to `0`. -/
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean]: "The quotient `q` and remainder `r` in the Weierstrass division `0 / g` are equal to `0`." Is this OK? Or perhaps I should copy docstring of corresponding result for `IsWeierstrassDivisorAt` to here.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean]: In this section I have 5 results stating uniqueness, the first 4 of them only require Hausdorff, whereas the last one (i.e. this one) requires completeness. So I don't think it's the best idea to only keep this result (loses generality).

Regarded [Polynomial.div_modByMonic_unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Div.html#Polynomial.div_modByMonic_unique), this last result is closest to it, but note that `h : r + g * q = f ∧ r.degree < g.degree` in `Polynomial.div_modByMonic_unique` is encapsulated as `f.IsWeierstrassDivision g q r`, so our result is named as `IsWeierstrassDivision.*` to enable the use of dot notation. According to the name `Polynomial.div_modByMonic_unique`, maybe our this result is better to be called `IsWeierstrassDivision.unique`?

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 5]
```diff
@@ -0,0 +1,438 @@
...
+/-- If `g` is a power series over a local ring such that
+its image in the residue field is not zero, then `g` can be used as a Weierstrass divisor. -/
+theorem IsWeierstrassDivisor.of_map_ne_zero [IsLocalRing A]
+    (hg : g.map (IsLocalRing.residue A) ≠ 0) : g.IsWeierstrassDivisor := by
+  rw [IsWeierstrassDivisor, IsWeierstrassDivisorAt, ← IsLocalRing.not_mem_maximalIdeal]
+  have h := coeff_order hg
+  contrapose! h
+  rwa [coeff_map, IsLocalRing.residue_eq_zero_iff]
+
+private theorem coeff_trunc_order_mem (i : ℕ) :
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:138]: I cannot find a file in `Mathlib.RingTheory.PowerSeries.*` import both `trunc` and `order`... and I think this result is too specific for our use case. What do you think? What file should it go?

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 6]
```diff
@@ -0,0 +1,438 @@
...
+  This property guarantees that if the `A` is `I`-adic complete, then `g` can be used as a divisor
+  in Weierstrass division (`PowerSeries.IsWeierstrassDivisorAt.isWeierstrassDivisionAt_div_mod`).
+
+- `PowerSeries.IsWeierstrassDivisor`: version of `PowerSeries.IsWeierstrassDivisorAt` for
+  local rings with respect to its maximal ideal.
+
+## Main results
+
+- `PowerSeries.exists_isWeierstrassDivision`: **Weierstrass division**
+  ([washington_cyclotomic], Proposition 7.2): let `f`, `g` be power series
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:46]: But I think `f / g` is the usual convention, just like what in [Polynomial.div_modByMonic_unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Div.html#Polynomial.div_modByMonic_unique) 😂

[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:46]: OK let's keep it.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:138]: OK let's keep it here.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:241]: What about just 'div_mod'? I agree having dot notation is nice.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 7]
```diff
@@ -0,0 +1,448 @@
...
+/-- The quotient `q` and remainder `r` in the Weierstrass division are unique. -/
+theorem eq_of_weierstrass_division [IsHausdorff (IsLocalRing.maximalIdeal A) A]
+    {q q' : A⟦X⟧} {r r' : A[X]}
+    (hr : r.degree < (g.map (IsLocalRing.residue A)).order.toNat)
+    (hr' : r'.degree < (g.map (IsLocalRing.residue A)).order.toNat)
+    (heq : g * q + r = g * q' + r') : q = q' ∧ r = r' :=
+  (IsWeierstrassDivisor.of_map_ne_zero hg).eq_of_mul_add_eq_mul_add hr hr' heq
+
+variable {f} in
+/-- The quotient `q` and remainder `r` in the Weierstrass division are unique. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:409]:
```suggestion
/-- The quotient `q` and the remainder `r` in the Weierstrass division are unique. -/
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 8]
```diff
@@ -0,0 +1,448 @@
...
+theorem IsWeierstrassDivision.elim [IsHausdorff (IsLocalRing.maximalIdeal A) A]
+    {q q' : A⟦X⟧} {r r' : A[X]}
+    (H : f.IsWeierstrassDivision g q r) (H2 : f.IsWeierstrassDivision g q' r') : q = q' ∧ r = r' :=
+  g.eq_of_weierstrass_division hg H.1 H2.1 (H.2.symm.trans H2.2)
+
+/-- The quotient `q` and remainder `r` in the Weierstrass division `0 / g` are equal to `0`. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:415]:
```suggestion
/-- The quotient `q` and the remainder `r` in the Weierstrass division `0 / g` are equal to `0`. -/
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 9]
```diff
@@ -0,0 +1,448 @@
...
+theorem IsWeierstrassDivision.eq_zero [IsHausdorff (IsLocalRing.maximalIdeal A) A]
+    {q : A⟦X⟧} {r : A[X]}
+    (H : IsWeierstrassDivision 0 g q r) : q = 0 ∧ r = 0 :=
+  H.elim hg (g.isWeierstrassDivisionAt_zero _)
+
+variable {f} in
+/-- The quotient `q` and remainder `r` in the Weierstrass division `f / g` are unique,
+in particular, equal to `f /ʷ g` and `f %ʷ g`. -/
+theorem IsWeierstrassDivision.eq_weierstrassDiv_weierstrassMod
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:424]: I still don't get the point of having `eq_of_weierstrass_division` and `IsWeierstrassDivision.elim`: of course they're needed to prove this theorem, that is all we want. What about inlining the two previous result in this proof?

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 10]
```diff
@@ -0,0 +1,448 @@
...
+  exact (IsWeierstrassDivisor.of_map_ne_zero hg).isWeierstrassDivisionAt_div_mod f
+
+theorem eq_mul_weierstrassDiv_add_weierstrassMod
+    [IsAdicComplete (IsLocalRing.maximalIdeal A) A] :
+    f = g * (f /ʷ g) + (f %ʷ g) := by
+  simp_rw [weierstrassDiv, weierstrassMod, dif_pos hg]
+  exact ((IsWeierstrassDivisor.of_map_ne_zero hg).isWeierstrassDivisionAt_div_mod f).2
+
+/-- The quotient `q` and remainder `r` in the Weierstrass division `0 / g` are equal to `0`. -/
+theorem eq_zero_of_weierstrass_division [IsHausdorff (IsLocalRing.maximalIdeal A) A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:394]: The docstring should go to `weierstrassDiv_zero_left`, not here (using `/ʷ`), not here. Also the name should be changed, there is no weierstrass_division in the statement.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 11]
```diff
@@ -0,0 +1,448 @@
...
+    {q : A⟦X⟧} {r : A[X]}
+    (hr : r.degree < (g.map (IsLocalRing.residue A)).order.toNat)
+    (heq : g * q = r) : q = 0 ∧ r = 0 :=
+  (IsWeierstrassDivisor.of_map_ne_zero hg).eq_zero_of_mul_eq hr heq
+
+/-- The quotient `q` and remainder `r` in the Weierstrass division are unique. -/
+theorem eq_of_weierstrass_division [IsHausdorff (IsLocalRing.maximalIdeal A) A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:401]: Same.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:241]: I'm not sure on this, as the `div_mod` seems too general, one cannot guess what `H.div_mod` implies... maybe `isWeierstrassDivisionAt` is better than `div_mod`...

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 10 above)
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean]: This remove is removed (as well as the following one), in favor of the result already stated for `IsWeierstrassDivisorAt`.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 12]
```diff
@@ -0,0 +1,434 @@
...
+  split_ifs with h
+  · simpa [← RingHom.mem_ker] using coeff_of_lt_order_toNat _ h
+  · exact zero_mem _
+
+namespace IsWeierstrassDivisorAt
+
+variable {g I} (H : g.IsWeierstrassDivisorAt I)
+include H
+
+theorem isUnit_shift : IsUnit <| mk fun i ↦
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:150]: This can go in `Mathlib.RingTheory.PowerSeries.Inverse`.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 13]
```diff
@@ -0,0 +1,434 @@
...
+      pow_succ']
+    refine coeff_mul_mem_ideal_of_coeff_left_mem_ideal' (fun i ↦ ?_) i
+    refine coeff_mul_mem_ideal_mul_ideal_of_coeff_mem_ideal'
+      (by simp [n, g.coeff_trunc_order_mem]) (fun i ↦ ?_) i
+    rw [coeff_mk]
+    exact hq (by simp)
+
+theorem coeff_seq_succ_sub_seq_mem (k i : ℕ) :
+    coeff A i (H.seq f (k + 1) - H.seq f k) ∈ I ^ k := by
+  simp_rw [seq, add_sub_cancel_left]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:194]:
```suggestion
  rw [seq, add_sub_cancel_left]
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 14]
```diff
@@ -0,0 +1,434 @@
...
+/-- The (bundled version of) coefficient of the limit `q` of the
+inductively constructed sequence `qₖ` in the proof of Weierstrass division. -/
+noncomputable def divCoeff [IsPrecomplete I A] (i : ℕ) :=
+  Classical.indefiniteDescription _ <| IsPrecomplete.prec' (I := I)
+    (fun k ↦ coeff A i (H.seq f k)) fun {m} {n} hn ↦ by
+      induction n, hn using Nat.le_induction with
+      | base => rw [SModEq.def]
+      | succ n hn ih =>
+        refine ih.trans (SModEq.symm ?_)
+        simp_rw [SModEq.sub_mem, smul_eq_mul, Ideal.mul_top, ← map_sub]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:217]:
```suggestion
        rw [SModEq.sub_mem, smul_eq_mul, Ideal.mul_top, ← map_sub]
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 15]
```diff
@@ -0,0 +1,434 @@
...
+
+variable {f}
+
+theorem coeff_div [IsPrecomplete I A] (i : ℕ) : coeff A i (H.div f) = (H.divCoeff f i).1 := by
+  simp [div]
+
+theorem coeff_div_sub_seq_mem [IsPrecomplete I A] (k i : ℕ) :
+    coeff A i (H.div f - (H.seq f k)) ∈ I ^ k := by
+  rw [map_sub, coeff_div]
+  simpa [SModEq.sub_mem] using ((H.divCoeff f i).2 k).symm
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:232]:
```suggestion
  simpa [coeff_div, SModEq.sub_mem] using ((H.divCoeff f i).2 k).symm
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:241]: OK, do as you prefer, it's not very important.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:410]: Ah I didn't notice it. Let's keep it then (can you add a sentence to the docstring of `IsWeierstrassDivision.elim` saying that in the complete case one probably wants to use this result?).

And yes, please remove `eq_XXX_of_XXX`.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:150]: But this is the property of `IsWeierstrassDivisorAt`, it is a consequence of `IsWeierstrassDivisorAt` (i.e. `IsUnit (coeff A (g.map (Ideal.Quotient.mk I)).order.toNat g)`). Of course its proof is just a result in `Mathlib.RingTheory.PowerSeries.Inverse`, but this result `IsWeierstrassDivisorAt.isUnit_shift` cannot go to that file because it depends on `IsWeierstrassDivisorAt`...

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 9 above)
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:409]: Done.

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean (hunk 12 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean:151]: OK, something must have confused `find_home`. No problem.
